US08536203B2
2-(5-(3,4-dimethoxy-5-nitrophenyl)-1H-imidazol-1-yl)-5-(trifluoromethyl)pyridine (0.394 g, 1 mmol) was heated at 140° C. in 48% aqueous hydrogen bromide (6 mL) for 2.5 hours. The dark homogeneous solution was cooled to room temperature and volatiles were removed by evaporation to leave a pale brown crystalline solid that was dried over P2O5 under vacuum. Trituration of the resulting solid with diethyl ether gave 3-nitro-5-(1-(5-(trifluoromethyl)pyridin-2-yl)-1H-imidazol-5-yl)benzene-1,2-diol as a yellow crystalline solid, 0.263 g (72%).

reactant | 2-(5-(3,4-dimethoxy-5-nitrophenyl)-1H-imidazol-1-yl)-5-(trifluoromethyl)pyridine | 1 mmol, 0.394 g | COC=1C=C(C=C(C1OC)[N+](=O)[O-])C1=CN=CN1C1=NC=C(C=C1)C(F)(F)F | C17H13F3N4O4
solvent | hydrogen bromide | 6 mL | Br | BrH
product | 3-nitro-5-(1-(5-(trifluoromethyl)pyridin-2-yl)-1H-imidazol-5-yl)benzene-1,2-diol | [N+](=O)([O-])C1=C(C(=CC(=C1)C1=CN=CN1C1=NC=C(C=C1)C(F)(F)F)O)O | C15H9F3N4O4
